US05102877
1,4-Diacetyl-4-hydroxypiperidine (0.2 g) was dissolved in 1N hydrochloric acid (4 ml) and the solution was heated at 100° C. for 15 hours. After cooling to 0° C., the reaction mixture was diluted with a mixture of tetrahydrofuran (10 ml) and water (10 ml). To the mixture was added dropwise at 0° C. a solution of allyl chloroformate (0.15 ml) in tetrahydrofuran (2 ml) while adjusting pH to around 10 with aqueous potassium hydride. After stirring at 0° C. for 30 minutes, the reaction mixture was diluted with a mixture of ethyl acetate and water. The organic layer was separated, washed in turn with water and brine, and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (10 g) eluting with a mixture of n-hexane and ethyl acetate (9:1-1:1, V/V) to give 4-acetyl-1-allyloxycarbonyl-4-hydroxypiperidine (0.26 g).

reactant | 1,4-Diacetyl-4-hydroxypiperidine | 0.2 g | C(C)(=O)N1CCC(CC1)(O)C(C)=O | C9H15NO3
reactant | allyl chloroformate | 0.15 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | potassium hydride | [H-].[K+]
solvent | hydrochloric acid | 1N, 4 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-acetyl-1-allyloxycarbonyl-4-hydroxypiperidine | 0.26 g | C(C)(=O)C1(CCN(CC1)C(=O)OCC=C)O | C11H17NO4
